US06417200B1
D) methyl 3-cyano-4-[(N,N-bis(t-butoxycarbonyl)amino)methyl]benzoate
To a mixture of hexane washed 60% disp. NaH (40 mg, 1 mmol) and DMF (8 mL) was added HN(BOC)2 (203 mg, 0.93 mmol) and stirred for 30 m. The reaction was added methyl 3-cyano-4-(bromomethyl)benzoate (202 mg, 0.80 mmol). After 3.5 h, the reaction was diluted with EtOAc (40 mL) and washed with H2O (6×5 mL). The organic layer was MgSO4 dried and concentrated. The crude material was chromatographed (30 g silica, 10% EtOAc/hexanes) to give the title compound (quant.). IR(CHCl3): 1125, 1370, 1723, 1791, 3020 cm−1; NMR(300 MHz, CDCl3): 1.46 (s, 18H); 3.96 (s, 3H); 5.08 (s, 2H); 7.42 (d, 1H, J=8.4 Hz); 8.23 (d, 1H, J=8.4 Hz); 8.32 (s, 1H); MS(FD): 391.

reactant | hexane | CCCCCC | C6H14
reactant | NaH | 1 mmol, 40 mg | [H-].[Na+]
reactant | HN(BOC)2 | 0.93 mmol, 203 mg | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | methyl 3-cyano-4-(bromomethyl)benzoate | 0.80 mmol, 202 mg | C(#N)C=1C=C(C(=O)OC)C=CC1CBr | C10H8BrNO2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | methyl 3-cyano-4-[(N,N-bis(t-butoxycarbonyl)amino)methyl]benzoate | C(#N)C=1C=C(C(=O)OC)C=CC1CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H26N2O6
